US06884774B2
A solution of 8-methoxy-8-phenyl-1,4-dioxaspiro[4.5]decane (5.96 g) and 3N-hydrrochloric acid (24 ml) in tetrahydrofuran was stirred at room temperature for 24 hours. The reaction mixture was added to a mixture of sodium hydrogen carbonate solution and dimethyl ether. The organic layer was washed with sodium hydrogen carbonate solution and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (1:0-150:1 dichloromethane-methanol elution) to give 4-methoxy-4-phenylcyclohexanone (3.6 g).

reactant | 8-methoxy-8-phenyl-1,4-dioxaspiro[4.5]decane | 5.96 g | COC1(CCC2(OCCO2)CC1)C1=CC=CC=C1 | C15H20O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | dimethyl ether | COC | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-methoxy-4-phenylcyclohexanone | 3.6 g | COC1(CCC(CC1)=O)C1=CC=CC=C1 | C13H16O2
